Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is an ___ year old right handed woman with PMH of
breast cancer status post pancreatic cancer status post whipple
procedure, breast cancer status left mastectomy in ___,
sjogren's disease, diabetes, hypertension and hyperlipidemia who
code stroke has been called because of episode of aphasia.  

Patient's history is provided by ___ ___

Patient was supposed to go the ___ this evening and her
friend came to pick her up from home at about 5:00 to 5:30PM. 
Patient is usually very punctual and ready to be picked up, but
this evening she would not answer her phone.  Patient's friend
went into patient's home and found patient in bed sleeping. 
Patient was awoken from sleep and was reported to be confused. 
She was not making sense.  She was not answering questions
appropriately.  Patient could move all her extremities normally.

EMS was called because patient is normally not like this. 

Patient in the ED reports that she feels normal, but cannot
remember what happened that led her to be brought to the
hospital.  Patient is seen texting and calling her friends and
family to update them on being brought to the hospital. 

Patient presents with a fever of 102.8.  Patient told me that 
she
felt she had some chills throughout the day.  She reports that
there are a lot of people sick where she lives.  She denies
respiratory congestion and increased urinary frequency or pain
with urination. Patient reports that her mouth is dry and she
would like some water, but this is common given her sjogren's. 
Patient also endorses she is hungry. 

Patient, per daughter, was at ___ ___ for a month because of
a whipple procedure to remove pancreatic cancer.  The daughter
thinks that the pancreatic cancer has been completely removed. 
Patient has elected to not be on chemotherapy. 

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 
Past Medical History:
Pancreatic cancer status post ___'s procedure 
Breast cancer status post left mastectomy ___ 
Hypertension 
Hyperlipidemia 
Diabetes

 
Social History:
___
Family History:
Patient's father and brother both died of pancreatic cancer.  
Her
mother died in late ___ of old age. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
General examination: 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to name both high
and low frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. Able to register 3 objects and recall ___ at 5 
minutes.
There was no evidence of apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

Motor: 
Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

Sensory: 
No deficits to light touch, pinprick, temperature,  vibration, 
or
proprioception throughout. No extinction to DSS. Romberg absent. 


Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor. Normal finger-tap bilaterally. No dysmetria
on FNF or HKS bilaterally.

Gait: 
Deferred. 

DISCHARGE EXAM
===============
Mental status normal. Fluent speech. Recounts history. WOWB. The 
rest of the exam the same as above.
 
Pertinent Results:
LABS
=====
___ 07:00PM BLOOD WBC-9.0 RBC-3.78* Hgb-10.5* Hct-32.0* 
MCV-85 MCH-27.8 MCHC-32.8 RDW-14.3 RDWSD-44.2 Plt ___
___ 07:00PM BLOOD Neuts-88.2* Lymphs-4.9* Monos-6.3 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-7.93* AbsLymp-0.44* 
AbsMono-0.57 AbsEos-0.00* AbsBaso-0.02
___ 07:00PM BLOOD ___ PTT-26.8 ___
___ 07:00PM BLOOD ALT-44* AST-57* AlkPhos-88 TotBili-0.6
___ 07:00PM BLOOD Albumin-4.1
___ 07:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:07PM BLOOD Glucose-229* Creat-0.6 Na-135 K-3.6 
Cl-101 calHCO3-23

IMAGING
========
MRI
1.  Study is moderately degraded by motion.
2. No evidence of intracranial metastatic disease.
3.  Atrophy, chronic bilateral basal ganglia infarcts, probable 
small vessel
ischemic changes, and atherosclerotic vascular disease as 
described.
4. Minimal paranasal sinus disease and nonspecific mastoid 
fluid, as
described.
5.  Within limits of study, no definite evidence of enhancing 
intracranial
mass.

EEG 
___ - prelim fellow read
___

IMPRESSION: This is a mildly abnormal routine EEG in the awake 
and asleep states due to mild diffuse slowing and disorganized 
present in the background, indicating mild diffuse cerebral 
dysfunction that is nonspecific in etiology. Common causes 
include medications/sedation, toxic metabolic disturbances, and 
infections. The excessive diffuse beta fast activity is most 
likely due to a medication effect (e.g. benzodiazepines, 
barbiturates).  No focal abnormalities or epileptiform 
discharges are seen. 

 
Brief Hospital Course:
Ms ___ was admitted to the Neurology service after an 
episode of confusion that resolved spontaneously. She was back 
to herself by admission. She had a work-up which included brain 
MRI with and without contrast was normal. EEG did not show 
evidence of seizures. It was not entirely clear what this event 
was. It could have been a spurious event that occurred in the 
setting of abrupt waking. We cannot rule out that it was a 
seizure however we would still not recommend starting an AED 
after just a single questionable event. Ms. ___ will 
follow up in Neurology Clinic at the ___ where she gets the 
rest of her care and prefers to follow up at. No changes to 
medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lovastatin 40 mg oral QPM 
2. amLODIPine 5 mg PO DAILY 
3. Restasis 0.05 % ophthalmic (eye) TID 
4. Vitamin D 1000 UNIT PO DAILY 
5. Cyanocobalamin 100 mcg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Creon 12 3 CAP PO TID W/MEALS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Creon 12 3 CAP PO TID W/MEALS  
4.  Cyanocobalamin 100 mcg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Lovastatin 40 mg oral QPM  
7.  Restasis 0.05 % ophthalmic (eye) TID  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient confusional state

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for an episode of transient confusion 
that occurred while being woken up from sleep. It is unclear 
what caused this event. Your imaging including MRI brain with 
and without contrast did not show any abnormality. Your EEG did 
not show any seizure activity. We can't completely rule out that 
the episode was not a seizure at this time. However, we do not 
recommend anti seizure medication for a first time event. At 
this time we feel safe for ___ to go home. Of note, because it 
is unclear if this was a seizure we advise ___ to not drive ( 
which ___ don't do anyhow) until 6 moths of being event free. We 
also recommend to avoid heights, open see or taking baths if 
unsupervised. 
No changes in your medications were made. 
Please take your medications as prescribed. 
Please follow up with your PCP and neurology as mentioned below. 

 
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___